US07049325B2
A solution of 2-chloro-6-methoxyquinoline (4.4 g, 22 mmol) in CH2Cl2 (60 mL) was treated by slow addition of Br2 (3.5 mL, 11 g, 68 mmol). After 14 hours, the mixture was partitioned between NaCl and CH2Cl2. The aqueous layer was extracted with CH2Cl2. The organic layer was worked-up. HPLC (1:10 EtOAc/hexane) gave 6.1 g (99%) of 5-bromo-2-chloro-6-methoxyquinoline as a light yellow solid, (M+) 273(100).

reactant | 2-chloro-6-methoxyquinoline | 22 mmol, 4.4 g | ClC1=NC2=CC=C(C=C2C=C1)OC | C10H8ClNO
reactant | Br2 | 68 mmol, 3.5 mL, 11 g | BrBr | Br2
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-chloro-6-methoxyquinoline | 6.1 g, 99% | BrC1=C2C=CC(=NC2=CC=C1OC)Cl | C10H7BrClNO
